US07262200B2
2-Amino-5-piperidin-1-yl-benzamide (210 mg, 2.33 mmol) in dry dioxane (50 mL) was treated with 2N phosgene solution (1.28 mL in toluene). The resulting orange precipitate was heated to 80 C to give after 3 h, a pale yellow solid. The solution was cooled in an ice bath and the product was collect by filtration to give 6-Piperidin-1-yl-1H-quinazoline-2,4-dione 525 mg (91% yield) HPLC tr=3.6 min (85%), LCMS m/e 246.2 (M+H).

reactant | 2-Amino-5-piperidin-1-yl-benzamide | 2.33 mmol, 210 mg | NC1=C(C(=O)N)C=C(C=C1)N1CCCCC1 | C12H17N3O
reactant | phosgene | 2N, 1.28 mL | C(=O)(Cl)Cl | CCl2O
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 6-Piperidin-1-yl-1H-quinazoline-2,4-dione | 525 mg, 91% yield | N1(CCCCC1)C=1C=C2C(NC(NC2=CC1)=O)=O | C13H15N3O2
